US07915443B2
(S)-N-{[3-(3,3-difluoropiperidin-1-yl)propyl](oxido)phenyl--sulfanylidene}-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide
In a manner similar to that described for Example 508, N-[(3-bromopropyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide and 3,3-difluoropiperidine were converted to the title compound.

reactant | N-[(3-bromopropyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide | BrCCCS(=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(C1=CC=CC=C1)=O | C29H24BrN3O4S
reactant | 3,3-difluoropiperidine | FC1(CNCCC1)F | C5H9F2N
product | (S)-N-{[3-(3,3-difluoropiperidin-1-yl)propyl](oxido)phenyl--sulfanylidene}-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide | FC1(CN(CCC1)CCC[S@@](=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(C1=CC=CC=C1)=O)F | C34H32F2N4O4S
